US06987116B2
Morpholine (100 μL, 1.15 mmol) is added to a suspension of 7-[(2,4-dichloro-5-methoxyphenyl)amino]-2-(3-formylphenyl)thieno[3,2-b]pyridine-6-carbonitrile (400 mg, 0.88 mmol) in 8 mL of dichloromethane and 2 mL of N,N-dimethylformamide. The reaction mixture is cooled to 0° C. and sodium triacetoxyborohydride (1.0 g, 4.73 mmol) is added. After stirring at 0° C. for 1 hour, 2 drops of acetic acid are added and the reaction mixture is allowed to warm to room temperature and stirred for 2 hours. The reaction is quenched by the addition of water and then partitioned between saturated aqueous sodium bicarbonate and dichloromethane. The organic layer is washed with water, dried over sodium sulfate, filtered and concentrated in vacuo. The residue is purified by flash column chromatography eluting with a gradient of 1:1 hexane:ethyl acetate to 5% methanol in ethyl acetate to provide 154 mg of 7-[(2,4-dichloro-5-methoxyphenyl)amino]-2-[3-(morpholin-4-ylmethyl)phenyl]thieno[3,2-b]pyridine-6-carbonitrile as yellow crystals, mp 205-207° C.; 1H NMR (DMSO-d6) δ 2.38 (m, 4H), 3.51 (s, 2H), 3.59 (m, 4H), 3.86 (s, 3H), 7.32-7.48 (m, 3H), 7.64-7.70 (m, 2H), 7.77 (s, 1H), 7.91 (s, 1H), 8.61 (s, 1H), 9.74 (s, 1H); MS 523.1, 525.0 (M−H)−.

reactant | Morpholine | 1.15 mmol, 100 μL | N1CCOCC1 | C4H9NO
reactant | 7-[(2,4-dichloro-5-methoxyphenyl)amino]-2-(3-formylphenyl)thieno[3,2-b]pyridine-6-carbonitrile | 0.88 mmol, 400 mg | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C2C(=NC=C1C#N)C=C(S2)C2=CC(=CC=C2)C=O | C22H13Cl2N3O2S
reactant | sodium triacetoxyborohydride | 4.73 mmol, 1.0 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
catalyst | acetic acid | 2 drops | C(C)(=O)O | C2H4O2
product | 7-[(2,4-dichloro-5-methoxyphenyl)amino]-2-[3-(morpholin-4-ylmethyl)phenyl]thieno[3,2-b]pyridine-6-carbonitrile | 154 mg | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C2C(=NC=C1C#N)C=C(S2)C2=CC(=CC=C2)CN2CCOCC2 | C26H22Cl2N4O2S
